US05164407
Step A: 2-Butyl-1-[(2'-t-butoxycarbonylbiphen-4-yl)-methyl]-5-chloro-1H-imidazole-4-carboxaldehyde
A mixture of 2-butyl-1-[(2'-t-butoxycarbonylbiphen-4-yl)methyl]-5-chloro-1H-imidazole-4-methanol (European Patent Applications 253,310) (145 mg, 319 mmol), MnO2 (550 mg, 6.4 mmol), 3A powdered sieves (500 mg) in CH2Cl2 (10 mL) was stirred at room temperature for 3 hours. The mixture was filtered and evaporated to give 142 mg of the title compound as a glass. 1H NMR (300 MHz, CD3OD)δ 9.82 (s, 1H), 7.70 (dd, 1H, J=7 and 1.5 Hz), 7.50 (td, 1H, J=7 and 1.5 Hz), 7.40 (td, 1H, J=7 and 1.5 Hz), 7.31-7.26 (m, 3H), 7.15 (apparent d, 2H, J=3 Hz), 5.38 (s, 2H), 2.73 (t, 2H, J=7.5 Hz), 1.72-1.62 (m, 2H), 1.45-1.30 (m, 2H) 1.21 (s, 9H), 0.90 (t, 3H, J=7 Hz).

reactant | 2-butyl-1-[(2'-t-butoxycarbonylbiphen-4-yl)methyl]-5-chloro-1H-imidazole-4-methanol | 319 mmol, 145 mg | C(CCC)C=1N(C(=C(N1)CO)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C26H31ClN2O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 6.4 mmol, 550 mg | O=[Mn]=O
product | 2-Butyl-1-[(2'-t-butoxycarbonylbiphen-4-yl)-methyl]-5-chloro-1H-imidazole-4-carboxaldehyde | 142 mg | C(CCC)C=1N(C(=C(N1)C=O)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C26H29ClN2O3
